US09062070B2
Step A: 4-Bromo-N-tert-butyl-3-fluorobenzamide
To a suspension of 4-bromo-3-fluorobenzoic acid (19 g, 87 mmol) in DCM (200 mL) was added oxalyl chloride (9.10 mL, 104 mmol), followed by 1 drop of DMF. The mixture was allowed to stir at rt for 2 h. Upon clarification of the suspension, the solution was concentrated to dryness. The residue was redissolved in DCM (200 mL) and cooled to 0° C. Next the solution was treated with TEA (30.2 mL, 217 mmol) followed by tert-butyl amine (12.0 mL, 113 mmol). The solution was allowed to stir for 12 h. The reaction was diluted with 1N HCl (200 mL). The organic layer was then removed and washed with 1N NaOH. The organic layer was dried over MgSO4, filtered and concentrated to afford the title compound.

reactant | 4-bromo-3-fluorobenzoic acid | 87 mmol, 19 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | oxalyl chloride | 104 mmol, 9.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl amine | 113 mmol, 12.0 mL | C(C)(C)(C)N | C4H11N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | HCl | 1N, 200 mL | Cl | ClH
product | 4-Bromo-N-tert-butyl-3-fluorobenzamide | BrC1=C(C=C(C(=O)NC(C)(C)C)C=C1)F | C11H13BrFNO
